US07115602B2
1-Naphthalenecarboximidamide hydrochloride
14 g (261 mmol, 2 equiv.) ammonium chloride are suspended in 150 ml of dry toluene under an argon atmosphere, and the mixture is cooled to 0° C. 130 ml (260 mmol, 2 equiv.) of a 2M solution of trimethylaluminium in hexane are added dropwise, and the reaction mixture is stirred at room temperature until no more evolution of gas is observed. After addition of 20 g (130 mmol, 1 equiv.) 1-cyano-naphthalene, the mixture is stirred at 80° C. bath temperature over night. The mixture is cooled and poured into a slurry of silica in methylene chloride. After filtration, the solid is washed with methanol for several times, the solution is evaporated to dryness in vacuo and the residue washed with methanol. The combined filtrates are pooled and stirred in a mixture of methylene chloride containing 10% methanol.

reactant | ammonium chloride | 261 mmol, 14 g, 2 equiv. | [Cl-].[NH4+]
reactant | trimethylaluminium | C[Al](C)C
reactant | 1-cyano-naphthalene | 130 mmol, 20 g, 1 equiv. | C(#N)C1=CC=CC2=CC=CC=C12 | C11H7N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Naphthalenecarboximidamide hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)C(N)=N | InChI=1S/C11H10N2.ClH/c12-11(13)10-7-3-5-8-4-1-2-6-9(8)10;/h1-7H,(H3,12,13);1H
